US06583135B2
Preparation of tert-Butyl 7,9-Dichloro-6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
A solution of tert-butyl 7,9-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (3.00 g, 6.80 mmol) in dry THF (30 mL) was cooled to 0° C. Then, LiBH4 (0.44 g, 20.2 mmol) was added and the reaction was allowed to warm slowly to rt. After 18 h, additional LiBH4 (0.44 g, 20.2 mmol) was added. After an additional 24 h, the reaction was diluted with H2O followed by addition of 10% aqueous NaOH and extraction with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was first purified by column chromatography (Biotage 40M, SIM) with heptane/EtOAc (1:1) to give 2.37 g of impure product. Then, crystallization from EtOAc/heptane gave 2.21 g (82%) of ivory crystals: mp 183-184° C.; IR (diffuse reflectance) 1693, 1658, 1468, 1448, 1433, 1406, 1380, 1370, 1347, 1323, 1293, 1226, 1166, 1064, 771 cm1; MS (EI) m/z 398 (M+), 344, 342, 270, 268, 258, 256, 63, 57, 56. Anal. Calcd for C19H24Cl2N2O3: C, 57.15; H, 6.06; N, 7.01; found: C, 57.20; H, 6.11; N, 6.95.

reactant | tert-butyl 7,9-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 6.80 mmol, 3.00 g | ClC1=CC(=CC=2C3=C(N(C12)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
reactant | LiBH4 | 20.2 mmol, 0.44 g | [Li+].[BH4-]
reactant | LiBH4 | 20.2 mmol, 0.44 g | [Li+].[BH4-]
reactant | NaOH | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | tert-Butyl 7,9-Dichloro-6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 2.37 g | ClC1=CC(=CC=2C3=C(N(C12)CCO)CCN(CC3)C(=O)OC(C)(C)C)Cl | C19H24Cl2N2O3
